US08431695B2
Preparation of 2-{3-[4-amino-5-(2-benzyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-7-yl]hexahydropyrazino[2,1-c][1,4]oxazin-8(1H)-yl}-2-oxoethanol
To a stirred solution of 5-(2-benzyl-2H-indazol-6-yl)-7-(octahydropyrazino[2,1-c][1,4]oxazin-3-yl)pyrrolo[2,1-f][1,2,4]triazin-4-amine (50 mg, 0.10 mmol), triethylamine (43 μL, 0.31 mmol), and glycolic acid (8 mg, 0.10 mmol) in DMF (1 mL), benzotriazol-1-yloxytris(dimethylamino)-phosphonium hexafluorophosphate (51 mg, 0.11 mmol) was added at 0° C. The reaction was allowed to stir for 30 minutes while warming to rt. The mixture was partitioned between ethyl acetate (30 mL) and saturated aqueous K2CO3 solution (10 mL). The layers were separated and the organic phase was washed, dried (Na2SO4), and concentrated to dryness. The residue was triturated with Et2O to obtain 20 mg (36%) of the desired product. 1H-NMR (DMSO-d6) 8.53 (s, 1H), 7.91 (s, 1H), 7.78 (d, 1H), 7.57 (s, 1H), 7.35 to 7.27 (m, 5H), 7.11 (dd, 1H), 6.71 (s, 1H), 5.64 (s, 2H), 5.16-5.12 (m, 1H), 4.35-3.96 (m, 3H), 3.88-3.85 (m, 1H), 3.67-3.55 (m, 1H), 3.36-3.27 (m, 1H), 3.12-3.01 (m, 1H), 2.79-2.64 (m, 2H), 2.55-2.41 (m, 3H), 2.19-2.10 (m, 2H); LC-MS [M+H]+=539, RT=2.19 min.

reactant | 5-(2-benzyl-2H-indazol-6-yl)-7-(octahydropyrazino[2,1-c][1,4]oxazin-3-yl)pyrrolo[2,1-f][1,2,4]triazin-4-amine | 0.10 mmol, 50 mg | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)C2CN1C(CO2)CNCC1 | C27H28N8O
reactant | triethylamine | 0.31 mmol, 43 μL | C(C)N(CC)CC | C6H15N
reactant | glycolic acid | 0.10 mmol, 8 mg | C(CO)(=O)O | C2H4O3
reactant | benzotriazol-1-yloxytris(dimethylamino)-phosphonium hexafluorophosphate | 0.11 mmol, 51 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 2-{3-[4-amino-5-(2-benzyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-7-yl]hexahydropyrazino[2,1-c][1,4]oxazin-8(1H)-yl}-2-oxoethanol | 20 mg, 36% | NC1=NC=NN2C1=C(C=C2C2CN1C(CO2)CN(CC1)C(CO)=O)C=1C=CC2=CN(N=C2C1)CC1=CC=CC=C1 | C29H30N8O3
